US03995056
A solution of 11.23 g of 3'(3'-chloro-2'-oxo-propyl)-benzophenone in 112 ml of isopropanol was added to 50 ml of isopropanol and 17 g of aluminum isopropylate heated to 50° C and the mixture was refluxed for 2 hours while slowly distilling isopropanol and the acetone formed while keeping the volume constant by adding 30 ml of isopropanol. The mixture was concentrated to 50 ml and after returning to room temperature, the mixture was added with stirring to a mixture of ice-water-hydrochloride acide. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over sodium sulfate, treated with activated carbon, filtered and evaporated to dryness to obtain 11.97 g of 3-(3'-chloro-2'-hydroxypropyl)-benzhydrol which was used as is for the next step.

reactant | 3'(3'-chloro-2'-oxo-propyl)-benzophenone | 11.23 g | ClCC(CC=1C=C(C=CC1)C(C1=CC=CC=C1)=O)=O | C16H13ClO2
reactant | aluminum isopropylate | 17 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].[Al+3]
reactant | acetone | CC(=O)C | C3H6O
solvent | isopropanol | 112 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 3-(3'-chloro-2'-hydroxypropyl)-benzhydrol | 11.97 g | ClCC(CC=1C=C(C(C2=CC=CC=C2)O)C=CC1)O | C16H17ClO2
